US06699904B2
To a solution of 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester (0.69 mmol, 300 mg) dissolved in pyridine (3 mL) was added methanesulfonyl chloride (0.69 mmol, 0.534 mL). The mixture was stirred at room temperature overnight. A portion of the reaction mixture (0.115 mmol) was added to a solution containing 2-propane thiol (0.115 mmol, 0.107 mL) dissolved in anhydrous CH2Cl2 (2 mL). To this stirred solution was added a 1M solution of potassium tert-butoxide in tetrahydrofuran (0.115 mmol, 0.115 mL). The mixture was stirred overnight then poured over 1 M HCl. The mixture was extracted with diethyl ether (3×). The organic layers were combined, washed with 1 M HCl (2×), saturated brine (2×), dried over Na2SO4, and concentrated to a crude film. The film was purified by chromatography on silica gel (Merck silica gel 60, art#9385-3) eluting with 20% ethyl acetate in hexanes to give 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-isopropylsulfanyl-propionic acid ethyl ester as a clear film containing an approximate 1:1 mixture of methyl and ethyl ester (30.2 mg, 55%).

reactant | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-hydroxy-propionic acid ethyl ester | 0.69 mmol, 300 mg | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)O)=O | C25H41NO5
reactant | methanesulfonyl chloride | 0.69 mmol, 0.534 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-propane thiol | 0.115 mmol, 0.107 mL | CC(C)S | C3H8S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 0.115 mmol, 0.115 mL | O1CCCC1 | C4H8O
reactant | HCl | 1 M | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[2-(tert-butoxycarbonyl-heptyl-amino)-ethyl]-phenyl}-2-isopropylsulfanyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CCN(CCCCCCC)C(=O)OC(C)(C)C)SC(C)C)=O | C28H47NO4S
